US08071592B2
(a) 1,1-dimethylethyl {(3R,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-3-hydroxy-4-piperidinyl}carbamate
(7-Fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde methyl hemiacetal (200 mg, 0.8396 mmol) and 1,1-dimethylethyl[(3R,4S)-3-hydroxy-4-piperidinyl]carbamate (for a synthesis see WO2004058144, Example 5(c), cis-(3-hydroxy-piperidin-4-yl)-carbamic acid tert-butyl ester Enantiomer 1) (182 mg, 1 eq.) were stirred in chloroform (10 ml) plus MeOH (0.5 ml) under argon for 2 hours. Sodium triacetoxyborohydride (534 mg, 3 eq.) was added in one portion and the mixture was stirred at rt overnight, then quenched by addition of saturated aqueous sodium hydrogen cabonate (20 ml) and extracted with 20% v:v MeOH in DCM (3×200 ml). The organic extractes were combined, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give the crude product, which was purified by column chromatography on silica, eluted with 0-20% (2M ammonia in MeOH) in DCM. Appropriate fractions were combined and evaporated under reduced pressure to give title compound (247 mg) as an off-white foam.

reactant | (7-Fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde methyl hemiacetal | 0.8396 mmol, 200 mg | COC(CN1C(C=CC2=NC=C(C=C12)F)=O)O | C11H11FN2O3
reactant | 1,1-dimethylethyl[(3R,4S)-3-hydroxy-4-piperidinyl]carbamate | CC(C)(C)N(C([O-])=O)[C@@H]1[C@@H](CNCC1)O
reactant | cis-(3-hydroxy-piperidin-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1[C@@H](CNCC1)O)=O | C10H20N2O3
reactant | Sodium triacetoxyborohydride | 534 mg, 3 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.5 ml | CO | CH4O
product | 1,1-dimethylethyl {(3R,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-3-hydroxy-4-piperidinyl}carbamate | 247 mg | FC1=CN=C2C=CC(N(C2=C1)CCN1C[C@H]([C@H](CC1)NC(OC(C)(C)C)=O)O)=O | C20H27FN4O4
